US08383642B2
Ethyl 3-[4-[[4-(bromomethyl)-3-methoxy-phenyl]methoxy]-2-fluoro-phenyl]propanoate
To a solution of 3-[2-fluoro-4-(4-hydroxymethyl-3-methoxy-benzyloxy)-phenyl]-propionic acid ethyl ester (1.0 g, 2.76 mmol) in dichloromethane (25 mL) is added phosphorus tribromide (0.4 mL, 4.41 mmol) at 0° C. and the reaction mixture is stirred for 15 min at 0° C. The mixture is cooled to 0° C., diluted with water, and extracted with dichloromethane (2×100 mL). The combined extracts are washed with saturated brine, dried over Na2SO4, filtered, and concentrated to give the title compound (1.1 g, crude). 1H NMR (DMSO, 400 MHz) δ 7.34-7.32 (d, J=8 Hz, 1H), 7.12-7.08 (t, J=8 Hz, 1H), 6.96-6.94 (d, J=8 Hz, 2H), 6.67-6.64 (d, J=12 Hz, 2H), 4.98 (s, 2H), 4.55 (s, 2H), 4.12-4.09 (q, 2H), 2.90-2.88 (t, 2H), 2.60-2.56 (t, J=8 Hz, 2H), 1.25-1.22 (t, J=8 Hz, 3H).

reactant | 3-[2-fluoro-4-(4-hydroxymethyl-3-methoxy-benzyloxy)-phenyl]-propionic acid ethyl ester | 2.76 mmol, 1.0 g | C(C)OC(CCC1=C(C=C(C=C1)OCC1=CC(=C(C=C1)CO)OC)F)=O | C20H23FO5
reactant | phosphorus tribromide | 4.41 mmol, 0.4 mL | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 3-[4-[[4-(bromomethyl)-3-methoxy-phenyl]methoxy]-2-fluoro-phenyl]propanoate | 1.1 g | BrCC1=C(C=C(C=C1)COC1=CC(=C(C=C1)CCC(=O)OCC)F)OC | C20H22BrFO4
